US04254267
(B) (±)-4,5-Dihydro-3-(2-thienyl)-1H-pyrazole-5-carboxylic acid
Potassium hydroxide (3.3 g) is dissolved in 100 cc of methanol and 9.1 g of 4-(2-thienyl)-4-oxocrotonic acid is added. To the resulting solution is added 2 g of hydrazine and the solution is refluxed for 2 hours. The methanol is removed and the viscous residue dissolved in 80 cc of water. The solution is made strongly acid with 20% HCl and a precipitate forms. It is filtered and air-dried to yield 8.1 g of the title compound, melting point 163°-165° C., dec. After recrystallization from ethanol the compound is constant melting at 171°-173° C., dec.

reactant | Potassium hydroxide | 3.3 g | [OH-].[K+]
reactant | 4-(2-thienyl)-4-oxocrotonic acid | 9.1 g | S1C(=CC=C1)C(/C=C/C(=O)O)=O | C8H6O3S
reactant | hydrazine | 2 g | NN | H4N2
solvent | methanol | 100 cc | CO | CH4O
product | (±)-4,5-Dihydro-3-(2-thienyl)-1H-pyrazole-5-carboxylic acid | 8.1 g | S1C(=CC=C1)C1=NNC(C1)C(=O)O | C8H8N2O2S
